US06878721B1
5-[2-(5,6-Diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-8-hydroxy-6-methyl-1H-quinolin-2-one
3N Hydrochloric acid (1 mL) is added to a solution of 5-[2-(5,6-Diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-8-methoxymethoxy-6-methyl-1H-quinolin-2-one (12 mg) in isopropanol (1 mL) and tetrahydrofuran (1 mL) at room temperature and the reaction mixture heated for 18 hours at 40° C. The solvent is removed in vacuo, and the product purified by preparative scale HPLC on a C8 column, eluting with a water/acetonitrile/trifluoroacetic acid gradient.

reactant | Hydrochloric acid | 3N, 1 mL | Cl | ClH
reactant | 5-[2-(5,6-Diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-8-methoxymethoxy-6-methyl-1H-quinolin-2-one | 12 mg | C(C)C=1C=C2CC(CC2=CC1CC)NCC(O)C1=C2C=CC(NC2=C(C=C1C)OCOC)=O | C27H34N2O4
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 5-[2-(5,6-Diethyl-indan-2-ylamino)-1-hydroxy-ethyl]-8-hydroxy-6-methyl-1H-quinolin-2-one | C(C)C=1C=C2CC(CC2=CC1CC)NCC(O)C1=C2C=CC(NC2=C(C=C1C)O)=O | C25H30N2O3
